US06051712
In an analogous manner to that described in Example 1 (g), by alkylating tert-butyl (3RS,4RS)-4-[4-(3-benzylsulphanyl-propoxy)-phenyl]-3-hydroxy-piperidine-1-carboxylate with 2-bromomethyl-naphthalene there was obtained tert-butyl (3RS,4RS)-4-[4-(3-benzylsulphanyl-propoxy)-phenyl]-3-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylate as a colourless resin; MS: 598 (M+H)+.

reactant | tert-butyl (3RS,4RS)-4-[4-(3-benzylsulphanyl-propoxy)-phenyl]-3-hydroxy-piperidine-1-carboxylate | C(C1=CC=CC=C1)SCCCOC1=CC=C(C=C1)C1C(CN(CC1)C(=O)OC(C)(C)C)O | C26H35NO4S
reactant | 2-bromomethyl-naphthalene | BrCC1=CC2=CC=CC=C2C=C1 | C11H9Br
product | tert-butyl (3RS,4RS)-4-[4-(3-benzylsulphanyl-propoxy)-phenyl]-3-(naphthalen-2-ylmethoxy)-piperidine-1-carboxylate | C(C1=CC=CC=C1)SCCCOC1=CC=C(C=C1)C1C(CN(CC1)C(=O)OC(C)(C)C)OCC1=CC2=CC=CC=C2C=C1 | C37H43NO4S
